US05134142
A mixture of ethyl 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxylate (4.4 g) and 4N sodium hydroxide (5.7 ml) in tetrahydrofuran (20 ml), ethanol (10 ml and dioxane 20 ml was stirred at ambient temperature overnight. Water (50 ml) was added, and the mixture was acidified with hydrochloric acid. The precipitates were filtered and washed with water to give colorless crystals of 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxylic acid (4.1 g).

reactant | ethyl 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxylate | 4.4 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OCC | C19H17FN2O4S
reactant | sodium hydroxide | 4N, 5.7 ml | [OH-].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | Water | 50 ml | O | H2O
product | 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxylic acid | 4.1 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)O | C17H13FN2O4S
